US07947851B2
Step b) Formation of 5-((4-tert-butylbenzyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-hydroxybenzoic acid, hydrochloride salt
To a solution of 6-((4-tert-butylbenzyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one (71 mg, 0.12 mmol) in dioxane (2 ml) was added a solution of LiOH hydrate (25 mg, 0.60 mmol) in water (0.2 mL). The reaction mixture was heated at 80° C. for 3 hrs. Then a solution of HCl in dioxane (1 mL, 4N) and a saturated aqueous solution of NaCl (5 mL) were added and extracted with Et2O (2×10 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed under reduced pressure. The residue was dissolved in a solution of HCl in Et2O (1 mL, 1N) and DCM (1 mL). Evaporation of the solvent under reduced pressure gave 57 mg (64%) of the title compound as a beige solid. HPLC, Rt: 5.7 min (purity: 79.0%). 1H NMR (CDCl3) δ: 8.08-6.85 (m, 15H), 4.69 (brs, 4H), 2.61 (t, J=7.7 Hz, 2H), 1.59 (m, 2H), 1.34 (m, 2H), 1.24 (s, 9H), 0.93 (t, J=7.3 Hz, 3H).

reactant | 6-((4-tert-butylbenzyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 0.12 mmol, 71 mg | C(C)(C)(C)C1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CC2=CC=C(C=C2)C#CC2=CC=C(C=C2)CCCC)C=C1 | C40H43NO3
reactant | LiOH hydrate | 0.60 mmol, 25 mg | O[Li].O
reactant | HCl | Cl | ClH
reactant | NaCl | 5 mL | [Na+].[Cl-]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.2 mL | O | H2O
solvent | dioxane | 4N, 1 mL | O1CCOCC1 | C4H8O2
product | 5-((4-tert-butylbenzyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-hydroxybenzoic acid, hydrochloride salt | 57 mg, 64% | Cl.C(C)(C)(C)C1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CC2=CC=C(C=C2)C#CC2=CC=C(C=C2)CCCC)C=C1 | InChI=1S/C37H39NO3.ClH/c1-5-6-7-27-8-10-28(11-9-27)12-13-29-14-16-30(17-15-29)25-38(33-22-23-35(39)34(24-33)36(40)41)26-31-18-20-32(21-19-31)37(2,3)4;/h8-11,14-24,39H,5-7,25-26H2,1-4H3,(H,40,41);1H
